US04983610
A mixture of methyl 2-oxo-4,5-diphenyl-1(2H)-pyrimidinenonanoate (4.70 g, 11 mmol), 5N NaOH solution (7.40 mL, 36 mmol) and methanol (80 mL) was stirred at room temperature for 75 minutes and than at reflux for 75 minutes before being cooled and concentrated. The residue was diluted with water and 2N HCl was added until pH=2. The mixture was extracted with CH2Cl2, the extracts combined, dried over sodium sulfate and the solvent evaporated to leave an oil that crystallized. Recrystallization from a mixture of diethyl ether and CH2Cl2 afforded 2-oxo-4,5-diphenyl-1(2H)-pyrimidinenonanoic acid (3.35 g, 73%), m.p. 120°-123° C.

reactant | methyl 2-oxo-4,5-diphenyl-1(2H)-pyrimidinenonanoate | 11 mmol, 4.70 g | O=C1N(C=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCCC(=O)OC | C26H30N2O3
reactant | NaOH | 36 mmol, 5N, 7.40 mL | [OH-].[Na+]
solvent | methanol | 80 mL | CO | CH4O
product | 2-oxo-4,5-diphenyl-1(2H)-pyrimidinenonanoic acid | 3.35 g, 73% | O=C1N(C=C(C(=N1)C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCCC(=O)O | C25H28N2O3
